US04051062
7-Diethylamino-Coumarin
m-Diethylaminophenol 7.4g, malic acid 6.0g and 85% sulfuric acid 12.0ml were treated as for the 7-dimethylamino-coumarin, although the alumina column cut could not be induced to crystallize. It was rechromatographed, eluting first with benzene thoroughly, and then developing with dichloromethane. After two crystallizations from cyclohexane, cream colored crystals 0.5g (5%), m.p. 87.5°-88.0° were obtained, found C 71.94; H 7.09; N 6.35; C13H15NO2 requires C 7.19; H 6.92; N 6.45%.

reactant | m-Diethylaminophenol | 7.4g | C(C)N(C=1C=C(C=CC1)O)CC | C10H15NO
reactant | malic acid | 6.0g | C(C(O)CC(=O)O)(=O)O | C4H6O5
reactant | sulfuric acid | 12.0ml | S(O)(O)(=O)=O | H2O4S
reactant | 7-dimethylamino-coumarin | CN(C1=CC=C2C=CC(OC2=C1)=O)C | C11H11NO2
product | 7-Diethylamino-Coumarin | C(C)N(C1=CC=C2C=CC(OC2=C1)=O)CC | C13H15NO2
